US06548495B2
3-(8-Iodo-4-oxo-7-pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile
The title compound was prepared from 3-(3-cyano-phenyl)-N-(4-iodo-2-nitro-5-pyrrol-1-yl-phenyl)-3-oxo-propionamide (Example M9) by reductive cyclization with SnCl2.2H2O in EtOH at 70° C. according to the general procedure J (method b). Obtained as a yellow solid (344 mg).

reactant | 3-(3-cyano-phenyl)-N-(4-iodo-2-nitro-5-pyrrol-1-yl-phenyl)-3-oxo-propionamide | C(#N)C=1C=C(C=CC1)C(CC(=O)NC1=C(C=C(C(=C1)N1C=CC=C1)I)[N+](=O)[O-])=O | C20H13IN4O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
solvent | EtOH | CCO | C2H6O
product | 3-(8-Iodo-4-oxo-7-pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile | IC=1C(=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C1)N1C=CC=C1 | C20H13IN4O
